US08138345B2
Preparation of [4-({3-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}methylamino)phenyl]acetic Acid
A stirred solution of [4-({3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}methylamino)phenyl]acetic acid methyl ester (8.00 g, 15.1 mmol) and lithium hydroxide (1.81 g, 75.5 mmol) in acetonitrile (20.0 mL) and water (20.0 mL) was heated at 60° C. for 3 h. The pH of the reaction mixture was adjusted to pH 5 with aqueous hydrochloric acid (1 M) and the mixture was extracted with DCM. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (0-20% MeOH in DCM) to give the title compound (6.7 g, 86% yield) as an off-white solid.

reactant | [4-({3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}methylamino)phenyl]acetic acid methyl ester | 15.1 mmol, 8.00 g | COC(CC1=CC=C(C=C1)NCC(CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)=O)=O | C31H35N3O5
reactant | lithium hydroxide | 75.5 mmol, 1.81 g | [OH-].[Li+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | acetonitrile | 20.0 mL | C(C)#N | C2H3N
solvent | water | 20.0 mL | O | H2O
product | [4-({3-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}methylamino)phenyl]acetic Acid | 6.7 g, 86% yield | C1(=C(C=CC=C1)NC(=O)OC1CCN(CC1)CCC(=O)CNC1=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C30H33N3O5
